US05364871
Phosphorus oxychloride (8.5 ml) was added slowly to a solution of 4-acetyl-2-thiazolecarboxamide (10.0 g) in N,N-dimethylformamide (500 ml) at 0°-5° C. with cooling on an ice-water bath. The mixture was stirred at 0°-5° C. with cooling on an ice-water bath for 4 hours and then was poured into ice water (400 ml). The solution was extracted with ethyl acetate (750 ml×2). The extract was dried with magnesium sulfate. The solvent was removed under reduced pressure and the residue was crystallized from water to afford 4-acetyl-2-cyanothiazole (6.7 g).

reactant | Phosphorus oxychloride | 8.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-acetyl-2-thiazolecarboxamide | 10.0 g | C(C)(=O)C=1N=C(SC1)C(=O)N | C6H6N2O2S
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 4-acetyl-2-cyanothiazole | 6.7 g | C(C)(=O)C=1N=C(SC1)C#N | C6H4N2OS
